US04578378
To a mixture of 2-diphenylmethoxycarbonyl-3-oxothiomorpholine (327 mg, 1 mM), dichloromethane (8 ml), and bistrimethylsilyltrifluoroacetamide (0.53 ml). After 30 minutes' stirring from addition of trichloroacetyl isocyanate (0.18 ml), another trichloroacetyl isocyanate (0.06 ml) is added. After another 30 minutes' stirring, the mixture is concentrated and subjected to silica gel chromatography. Fractions eluted with dichloromethane and a mixture of dichloromethane and ethyl acetate (9:1) are combined and concentrated to give 2-diphenylmethoxycarbonyl-4-carbamoyl-3-oxothiomorpholine (332 mg). Yield 89.6%.

reactant | 2-diphenylmethoxycarbonyl-3-oxothiomorpholine | 1 mM, 327 mg | C1(=CC=CC=C1)C(OC(=O)C1C(NCCS1)=O)C1=CC=CC=C1 | C18H17NO3S
reactant | bistrimethylsilyltrifluoroacetamide | 0.53 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | trichloroacetyl isocyanate | 0.18 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | trichloroacetyl isocyanate | 0.06 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-diphenylmethoxycarbonyl-4-carbamoyl-3-oxothiomorpholine | 332 mg, Yield 89.6% | C1(=CC=CC=C1)C(OC(=O)C1C(N(CCS1)C(N)=O)=O)C1=CC=CC=C1 | C19H18N2O4S
